US07723329B2
A mixture of 1-naphthalene sulfonyl chloride (20.2 g, 89.1 mmol), sodium sulfite (22.5 g, 178 mmol) and sodium bicarbonate (15.1 g, 180 mmol) in water (125 mL) was stirred at 100° C. for one hour. After cooling to ambient temperature for 40 minutes, bromochloromethane (90 mL, 1.4 mol) and tetrabutylammonium bromide (2.87 g, 8.91 mmol) were added. The reaction mixture was then stirred at 75° C. for 14.5 hours. After cooling to ambient temperature, the layers of the reaction mixture were separated, and the organic phase was concentrated. The residue was purified by flash chromatography with 100% ethyl acetate. Hexane was added after concentration to help solidify, and the mixture was again concentrated. Drying at 80° C. in vacuo for 20 minutes yielded 1-chloromethanesulfonyl-naphthalene as a pale yellow solid (19.0 g, 88.8%). MP 103-5° C. Mass Spectrum (+EI, M+) m/z 240.

reactant | 1-naphthalene sulfonyl chloride | 89.1 mmol, 20.2 g | C1(=CC=CC2=CC=CC=C12)S(=O)(=O)Cl | C10H7ClO2S
reactant | sodium sulfite | 178 mmol, 22.5 g | S(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium bicarbonate | 180 mmol, 15.1 g | C([O-])(O)=O.[Na+]
reactant | bromochloromethane | 1.4 mol, 90 mL | BrCCl | CH2BrCl
solvent | water | 125 mL | O | H2O
catalyst | tetrabutylammonium bromide | 8.91 mmol, 2.87 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 1-chloromethanesulfonyl-naphthalene | 19.0 g, 88.8% | ClCS(=O)(=O)C1=CC=CC2=CC=CC=C12 | C11H9ClO2S
